US08242174B2
R)-2-(4-Fluoro-3,5-dimethyl-phenylamino)-hexanoic acid hydroxyamide (Compound 167294)
To a solution of (R)-2-(4-fluoro-3,5-dimethyl-phenylamino)-hexanoic acid tert-butoxy-amide (0.737 g, 2.273 mmol) in 1 mL of dichloromethane, was added trifluoroacetic acid (9 mL). After stirring at room temperature for 87 h, the reaction mixture was concentrated under reduced pressure. The product was isolated by Flash chromatography (silica gel) eluting with 0-10% methanol/dichoromethane to give the title compound as a white solid (0.182 g, 30% yield). Pure analytical sample was obtained by RP-HPLC purification. LC-MS: tR=6.8 min; m/z 269 (M+H)+;)+; 1H NMR (500 MHz, CD3OD) δ 0.92 (t, J=7.05 Hz, 3H), 1.33-1.45 (m, 4H), 1.71-1.79 (m, 2H), 2.13 (d, J=2.02 Hz, 6H), 3.65 (t, J=7.05 Hz, 1H), 6.36 (d, J=5.88 Hz, 2H); 13C NMR (125.75 MHz, CD3OD) δ 14.24, 14.80, 23.50, 29.18, 33.99, 58.94, 115.65 (d, J=3.14 Hz), 125.69 (d, J=18.74 Hz), 143.30, 155.19 (d, J=233.14 Hz), 172.75; 19F NMR (470.58 MHz, CD3OD) δ −135.79.

reactant | (R)-2-(4-fluoro-3,5-dimethyl-phenylamino)-hexanoic acid tert-butoxy-amide | 2.273 mmol, 0.737 g | C(C)(C)(C)ONC([C@@H](CCCC)NC1=CC(=C(C(=C1)C)F)C)=O | C18H29FN2O2
reactant | trifluoroacetic acid | 9 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-(4-Fluoro-3,5-dimethyl-phenylamino)-hexanoic acid hydroxyamide | 0.182 g, 30% yield | ONC(C(CCCC)NC1=CC(=C(C(=C1)C)F)C)=O | C14H21FN2O2
